US05232940
A mixture of 5-amino-4-carboethoxy-3-chloro-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole (3.3 g), hydrobromic acid (45%; 30 ml) and acetic acid (50 ml) was boiled under reflux for 18 h. The mixture was evaporated to low bulk and basified with sodium hydroxide solution (2 M), and the product was filtered off, dried (2.9 g) and recrystallized from a mixture of ethanol and water to give 5-amino-3-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole (2.5 g), m.p. 132.5°-134° C. in the form of a colorless solid.

reactant | 5-amino-4-carboethoxy-3-chloro-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 3.3 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)Cl)C(=O)OCC | C13H9Cl3F3N3O2
reactant | hydrobromic acid | 30 ml | Br | BrH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-amino-3-bromo-1-(2,6-dichloro-4-trifluoromethylphenyl)-pyrazole | 2.5 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)Br | C10H5BrCl2F3N3
